US06313312B1
5-(3-Hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)-2-(trifluoromethyl)-1H-benzimidazole
A solution of 2-amino-4-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine (Preparation 48, 99.0 mg, 0.345 mmol) in trifluoroacetic acid (2.0 ml) was heated under reflux for 1 hour. The mixture was cooled and the solvent was removed in vacuo. The residue was suspended in 2N sodium hydroxide (5 ml) and the aqueous layer was extracted with diethyl ether (3×5 ml). The combined extracts were dried (MgSO4), filtered and concentrated in vacuo. The crude residue was purified by silica column chromatography ieluting with ethyl acetate to afford the title compound (67 mg, 54%) as a colourless oil.

reactant | 2-amino-4-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine | 0.345 mmol, 99.0 mg | NC1=C(C=CC(=C1)C1(C2CN(CC12)CCCCCC)C)N | C18H29N3
reactant | trifluoroacetic acid | 2.0 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(3-Hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)-2-(trifluoromethyl)-1H-benzimidazole | 67 mg, 54% | C(CCCCC)N1CC2C(C2C1)(C)C1=CC2=C(NC(=N2)C(F)(F)F)C=C1 | C20H26F3N3
